US06696607B2
Preparation of 4-(2-Aminoethyl)-2-methoxyphenol
0.5 g of palladium on charcoal (10%) were added to 5 g (19.5 mmol) of 2-[4-(benzyloxy)-3-methoxyphenyl]ethylamine [cf.: Heterocycles, Vol. 28, 297-298 (1989)] in 100 ml of tetrahydrofuran and the mixture was hydrogenated under atmospheric pressure. After the uptake of hydrogen had ended, the mixture was filtered and the filtrate was freed from the solvent.

reactant | 2-[4-(benzyloxy)-3-methoxyphenyl]ethylamine | 19.5 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN)OC | C16H19NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(2-Aminoethyl)-2-methoxyphenol | NCCC1=CC(=C(C=C1)O)OC | C9H13NO2
